US06197963B1
A solution of 5-azidopentanol (100 mg, 0.83 mmol) and 2,6-di-t- butyl-4-methylpyridine (170 mg, 0.83 mmol) in dichloromethane (5 ml) at 0° C. was treated with triflic anhydride (0.14 ml, 0.83 mmol). The reaction mixture was stirred at room temperature for 15 min, poured into water and extracted with dichloromethane (3×50 ml). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to afford 5-azidopentyl trifluoromethanesulfonate. Caution. Explosion hazard! Attempts to isolate neat azidoalkyl triflates have resulted in violent decomposition. These triflates should not be concentrated to dryness and should be used only in solution as described in this procedure.

reactant | 5-azidopentanol | 0.83 mmol, 100 mg | N(=[N+]=[N-])CCCCCO | C5H11N3O
reactant | 2,6-di-t- butyl-4-methylpyridine | 0.83 mmol, 170 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | triflic anhydride | 0.83 mmol, 0.14 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-azidopentyl trifluoromethanesulfonate | FC(S(=O)(=O)OCCCCCN=[N+]=[N-])(F)F | C6H10F3N3O3S
